US08809304B2
(34-1) Synthesis of 5-bromo-2-heptyloxybenzaldehyde (Compound 34-1)
To a suspension of 5-bromosalicylaldehyde (5.00 g) and potassium carbonate (10.3 g) in N,N-dimethylformamide (50 ml) was added heptyl bromide (4.10 ml), and the mixture was stirred at room temperature for 1.5 hr, and further at 50° C. for 5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with 1M aqueous sodium hydroxide solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (7.61 g) as a yellow oil.

reactant | 5-bromosalicylaldehyde | 5.00 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium carbonate | 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | heptyl bromide | 4.10 ml | C(CCCCCC)Br | C7H15Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-bromo-2-heptyloxybenzaldehyde | 7.61 g | BrC=1C=CC(=C(C=O)C1)OCCCCCCC | C14H19BrO2
